US07875647B2
Step 1: N-butanoyl-N′-[5-(4-Chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carbonyl]-hydrazine
Added to a solution of 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carboxylic acid (0.40 g, 1.05 mmol), N-butanoyl-hydrazine (0.11 g, 1.05 mmol) and EDCI (0.24 g, 1.26 mmol) dissolved in DCM (11 ml), was DMAP (0.15 g, 1.26 mmol) in one portion at room temperature. The reaction mixture was stirred at room temperature for 6 hrs, and then treated with 10% aq. HCl. The organic layer was collected, and evaporated under a vacuum. The crude mixture was further purified by preparative HPLC, to obtain 0.38 g (0.81 mmol, 77%) of the title compound as yellow solid.

reactant | 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carboxylic acid | 1.05 mmol, 0.40 g | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)O)C | C17H11Cl3N2O2
reactant | N-butanoyl-hydrazine | 1.05 mmol, 0.11 g | C(CCC)(=O)NN | C4H10N2O
reactant | EDCI | 1.26 mmol, 0.24 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HCl | Cl | ClH
solvent | DCM | 11 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.26 mmol, 0.15 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-butanoyl-N′-[5-(4-Chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carbonyl]-hydrazine | 0.81 mmol, 0.38 g, 77% | C(CCC)(=O)NNC(=O)C1=NN(C(=C1C)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C21H19Cl3N4O2
